US06194487B1
Next, in the mixing section 22, the vapor of 1,4-benzenedisulfonyl chloride was cooled, and the introduced base particles were exposed thereto for 10 minutes. Consequently, a polymerization reaction using triethylenediamine as a catalyst took place on the surface of the base particles between 4-aminocyclohexanol and 1,4-benzenedisulfonyl chloride, forming a film of 4-aminocyclohexanol-1,4-benzenedisulfonyl chloride co-polymer.

reactant | 1,4-benzenedisulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
reactant | 4-aminocyclohexanol | NC1CCC(CC1)O | C6H13NO
catalyst | triethylenediamine | C1CN2CCN1CC2 | C6H12N2
product | 4-aminocyclohexanol 1,4-benzenedisulfonyl chloride | NC1CCC(CC1)O.C1(=CC=C(C=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | InChI=1S/C6H4Cl2O4S2.C6H13NO/c7-13(9,10)5-1-2-6(4-3-5)14(8,11)12;7-5-1-3-6(8)4-2-5/h1-4H;5-6,8H,1-4,7H2
